US04093739
An aqueous solution of 10% sodium hydroxide (65 ml., 0.1625 mole) is slowly added to a suspension of N-[3-(mercaptoacetylamino)benzoyl]glycine (43 g., 0.16 mole) in 230 ml. of tetrahydrofuran with cooling at 10°-20° C. The mixture is warmed to about 20°-25° C. and filtered from a trace of solid. Diluting the filtrate with 480 ml. of tetrahydrofuran promotes the formation of a suspension which is stirred for 2 hr. and collected. The collected material is washed with tetrahydrofuran and air dried to provide 50 g. (88.3% yield) of N-[3-(mercaptoacetylamino)benzoyl]glycine sodium salt hydrated with 3.5 moles water, m.p. 68°-120° C. (dec.).

reactant | sodium hydroxide | 0.1625 mole, 65 ml | [OH-].[Na+]
reactant | N-[3-(mercaptoacetylamino)benzoyl]glycine | 0.16 mole, 43 g | SCC(=O)NC=1C=C(C(=O)NCC(=O)O)C=CC1 | C11H12N2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-(mercaptoacetylamino)benzoyl]glycine sodium salt | 88.3% yield | [Na+].SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1 | InChI=1S/C11H12N2O4S.Na/c14-9(6-18)13-8-3-1-2-7(4-8)11(17)12-5-10(15)16;/h1-4,18H,5-6H2,(H,12,17)(H,13,14)(H,15,16);/q;+1/p-1
